US08975254B2
c) N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)oxazole-4-carboxamide
(S)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide (153 mg, 0.352 mmol), 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-5-boronic acid pinacol ester (490 mg, 1.760 mmol), tetrakis(triphenylphosphine)palladium (4.07 mg, 3.52 umol), THF and 2 M Na2CO3 solution were added in a microwave flask and heated at 100° C. for 1 h. The reaction mixture was diluted with DCM and washed twice with NaHCO3 solution. Organic phase was dried and evaporated to dryness. The product was purified twice by Flash-chromatography. Yield 31.4%. m/z [506.0+1].

reactant | (S)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide | 0.352 mmol, 153 mg | BrC=1OC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C17H13BrClN5O2
reactant | 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-5-boronic acid pinacol ester | 1.760 mmol, 490 mg | O1C(CCCC1)N1N=CC=C1B1OC(C)(C)C(C)(C)O1 | C14H23BN2O3
reactant | THF | C1CCOC1 | C4H8O
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 3.52 umol, 4.07 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)oxazole-4-carboxamide | Yield 31.4% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)C1=CC=NN1C1OCCCC1 | C25H24ClN7O3
